US09126970B2
Synthesis of diethyl 2,5-bis(9-phenyl-9H-carbazol-3-yl)-terephthalate
913 mg (3 mmol) of tri-o-tolylphosphine and then 112 mg (0.5 mmol) of palladium(II)acetate are added to a well-stirred suspension of 18.6 g (49.1 mmol) of diethyl 2,5-dibromoterephthalate, 38 g (102 mmol) of (9-phenyl-9H-carbazol-3-yl)boronic acid, 51 g (221 mmol) of tripotassium phosphate in a mixture of 380 ml of toluene, 190 ml of dioxane and 480 ml of water, and the mixture is subsequently heated under reflux for 16 h. After cooling to room temperature (RT), the precipitated solid is filtered off with suction, washed three times with 50 ml of toluene, three times with 50 ml of ethanol:water (1:1, v:v), and three times with 100 ml of ethanol and recrystallised three times from DMF (about 10 ml/g).

reactant | tri-o-tolylphosphine | 3 mmol, 913 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | diethyl 2,5-dibromoterephthalate | 49.1 mmol, 18.6 g | BrC1=C(C(=O)OCC)C=C(C(=C1)C(=O)OCC)Br | C12H12Br2O4
reactant | (9-phenyl-9H-carbazol-3-yl)boronic acid | 102 mmol, 38 g | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)B(O)O | C18H14BNO2
reactant | tripotassium phosphate | 221 mmol, 51 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 380 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II)acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 480 ml | O | H2O
solvent | dioxane | 190 ml | O1CCOCC1 | C4H8O2
product | diethyl 2,5-bis(9-phenyl-9H-carbazol-3-yl)-terephthalate | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C1=C(C(=O)OCC)C=C(C(=C1)C(=O)OCC)C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C48H36N2O4
